US06569878B1
[4-Amino-2-(4-piperazin-1-yl-phenylamino)-thiazol-5-yl]-(2,4,6-trichloro-phenyl)-methanone
The title compound was prepared as follows. {4-Amino-2-[4-(4-tert-butoxycarbonyl-piperazin-1-yl)-phenylamino]-thiazol-5-yl}-(2,4,6-trichloro-phenyl)-methanone (50 mg, 0.086 mmol) was stirred in trifluoroacetic acid (TFA; 0.5 mL) at 0° C. After 20 min at 0° C., a minimal amount of water was added, and sat aq NaHCO3 was used for neutralization. The resultant suspension was filtered to obtain a yellow paste, which gave a suspension with MeOH/CHCl3 and led to isolation of 22 mg (42%) of yellow amorphous powder.

reactant | {4-Amino-2-[4-(4-tert-butoxycarbonyl-piperazin-1-yl)-phenylamino]-thiazol-5-yl}-(2,4,6-trichloro-phenyl)-methanone | 0.086 mmol, 50 mg | NC=1N=C(SC1C(=O)C1=C(C=C(C=C1Cl)Cl)Cl)NC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C25H26Cl3N5O3S
reactant | water | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | [4-Amino-2-(4-piperazin-1-yl-phenylamino)-thiazol-5-yl]-(2,4,6-trichloro-phenyl)-methanone | NC=1N=C(SC1C(=O)C1=C(C=C(C=C1Cl)Cl)Cl)NC1=CC=C(C=C1)N1CCNCC1 | C20H18Cl3N5OS
